US08455477B2
4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylic acid (1.4 g, 7.3 mmol) was dissolved in quinoline (50 ml). The mixture was heated to 200° C. for 2 hours, and then cooled to room temperature. The reaction mixture was filtered to give 1,5-naphthyridin-4-ol.

reactant | 4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylic acid | 7.3 mmol, 1.4 g | OC1C(C=NC2=CC=CN=C12)C(=O)O | C9H8N2O3
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 1,5-naphthyridin-4-ol | N1=CC=C(C2=NC=CC=C12)O | C8H6N2O
